US07592342B2
Preparation of N-{2-chloro-5-[3-(1-piperazinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide
To a solution of 1,1-dimethylethyl 4-(7-{6-chloro-5-[(phenylsulfonyl)amino]-3-pyridinyl}-2-quinoxalinyl)-1-piperazinecarboxylate (0.83 mmol) in acetonitrile (6 ml) was added concentrated trifluoroacetic acid (3 ml). The reaction stirred at ambient temperature for 3 hours and was then concentrated to an orange oil. The residue was neutralized with saturated sodium bicarbonate solution upon which a precipitate was formed. The product was filtered and dried to give the title compound (260 mg, 65%) as an off-white solid. MS(ES)+ m/e 481.2 [M+H]+.

reactant | 1,1-dimethylethyl 4-(7-{6-chloro-5-[(phenylsulfonyl)amino]-3-pyridinyl}-2-quinoxalinyl)-1-piperazinecarboxylate | 0.83 mmol | ClC1=C(C=C(C=N1)C1=CC=C2N=CC(=NC2=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C28H29ClN6O4S
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | N-{2-chloro-5-[3-(1-piperazinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide | 260 mg, 65% | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=CC=C1)C=1C=C2N=C(C=NC2=CC1)N1CCNCC1 | C23H21ClN6O2S
